US04452991
2-Hydroxybenzyl alcohol (5.0 g) and 1,2-dihydronaphthalene (5.2 g.) were heated together at 190° for 2 hr. the reaction mixture was chromatographed on neutral alumina, eluting with toluene/60°-80° petroleum ether 1:1to give a solid product which was recrystallised from ethanol to yield colourless crystals of cis-5,6,6a,12a-tetrahydro-7H-benzo(c)xanthene(0.65 g., m.pt. 71°-72°)identified and characterised by 1H- and 13C n.m.r. spectra.

reactant | 2-Hydroxybenzyl alcohol | 5.0 g | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | 1,2-dihydronaphthalene | 5.2 g | C1CC=CC2=CC=CC=C12 | C10H10
product | cis-5,6,6a,12a-tetrahydro-7H-benzo(c)xanthene | 0.65 g | C1=CC=CC=2CC[C@H]3CC=4C=CC=CC4O[C@H]3C21 | C17H16O
